US06677368B2
To a solution of 4-(3-methoxy-phenyl)-1,3-dihydro-indol-2-one (59.8 mg, 0.25 mmol) and 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (65.3 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. The solvent was evaporated and the solid was washed by ether for three times to provide pure product 5-[4-(3-methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (67.5 mg, 57%).

reactant | 4-(3-methoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 59.8 mg | COC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C15H13NO2
reactant | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.26 mmol, 65.3 mg | C(C)N(CCNC(=O)C1=CNC(=C1C)C=O)CC | C13H21N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-[4-(3-methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 67.5 mg, 57% | C(C)N(CCNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=CC(=C12)C1=CC(=CC=C1)OC)=O)CC | C28H32N4O3
